US06011174
(2) Preparation of 4-tert-butyl 2,2-diethyl 5-diphenylmethyl (4R,5R)-1,3-dioxolane-2,2,4,5-tetracarboxylate
3.92 g of tert-butyl diphenylmethyl L-tartarate was dissolved in 10 ml of dimethoxyethane, and 844 mg of 60% sodium hydride was added at 0° C. , followed by stirring at the same temperature for 45 minutes. Then, a solution of 3.37 g of diethyl dibromomalonate in 5 ml of dimethoxyethane, was added, followed by stirring under heating at 80° C. for 12 hours. The reaction solution was cooled to room temperature and then poured into water. The aqueous layer was saturated with sodium chloride and extracted with ethyl ether. The obtained organic layer was washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The drying agent was filtered off. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=7/1→5/1) to obtain 1.73 g (yield: 44%) of the above identified compound as white solid.

reactant | tert-butyl diphenylmethyl L-tartarate | 3.92 g | C([C@H](O)[C@@H](O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)(=O)OC(C)(C)C | C21H24O6
reactant | sodium hydride | 844 mg | [H-].[Na+]
reactant | diethyl dibromomalonate | 3.37 g | BrC(C(=O)OCC)(C(=O)OCC)Br | C7H10Br2O4
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 5 ml | C(OC)COC | C4H10O2
solvent | water | O | H2O
product | 4-tert-butyl 2,2-diethyl 5-diphenylmethyl (4R,5R)-1,3-dioxolane-2,2,4,5-tetracarboxylate | yield: 44% | O1C(O[C@H]([C@@H]1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)(C(=O)OCC)C(=O)OCC | C28H32O10
